US08067445B2
Step 4: (R)-2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-propionic acid
To a solution of (R)-2-[2′-(3-benzyl-1-ethyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-propionic acid methyl ester (0.036 g, 0.06 mmol) in 1:1 THF:H2O was added lithium hydroxide (0.005 g, 0.12 mmol) and hydrogen peroxide (29% in water; 0.01 mL, 0.12 mmol). The reaction was stirred at room temperature overnight, and then the mixture was acidified to pH 5 with 10% aqueous HCl. The solution was extracted with EtOAc, and the crude material was purified by preparative HPLC to give the title compound. M+H is 553.

reactant | (R)-2-[2′-(3-benzyl-1-ethyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-propionic acid methyl ester | 0.06 mmol, 0.036 g | COC([C@H](C)C=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C29H28F6N2O3
reactant | lithium hydroxide | 0.12 mmol, 0.005 g | [OH-].[Li+]
reactant | hydrogen peroxide | 0.12 mmol, 0.01 mL | OO | H2O2
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | (R)-2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-propionic acid | C(C1=CC=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)[C@H](C(=O)O)C)=O | C28H26F6N2O3
